US05594021
2-n-Propylbenzo[b]thiophene was prepared by the method of Example 40A with benzo[b]thiophene (7.5 mmoles, 1.0 g), t-BuLi (1.7M, 9.7 mmoles, 5.7 ml), n-bromopropane (9.7 mmoles, 0.88 ml) and THF (20 ml). 1.11 g (85%) of a light yellow liquid was isolated.

reactant | benzo[b]thiophene | 7.5 mmoles, 1.0 g | S1C2=C(C=C1)C=CC=C2 | C8H6S
reactant | t-BuLi | 9.7 mmoles, 1.7M, 5.7 ml | [Li]C(C)(C)C
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-n-Propylbenzo[b]thiophene | C(CC)C1=CC2=C(S1)C=CC=C2 | C11H12S
